US08357717B2
Stage 8: 7-(4-Methoxy-2,6-dimethylphenylsulfonyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylic acid
A mixture of methyl 7-(4-methoxy-2,6-dimethylphenylsulfonyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate (0.13 mmol, 1 equiv.), MeOH/H2O (1:1, 4 ml), and LiOH (0.551 mmol, 6 equiv.) was stirred for 16 h at 25° C. The organic solvent was removed in vacuo, and the resulting suspension was diluted with water (5 ml) and adjusted to an acidic pH value with 1N HCl at 0° C. Extraction with ethyl acetate (2×15 ml) was then carried out, and the combined organic phases were washed with sat. NaCl solution. The organic phase was dried over Na2SO4 and concentrated in vacuo to yield the product in the form of a light-yellow solid. This was used in the following stage without further purification. Yield: 63%

reactant | methyl 7-(4-methoxy-2,6-dimethylphenylsulfonyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate | 0.13 mmol, 1 equiv. | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CC=2N(CC1)C=NC2C(=O)OC)C | C17H21N3O5S
reactant | LiOH | 0.551 mmol, 6 equiv. | [Li+].[OH-]
solvent | MeOH H2O | 4 ml | CO.O
product | 7-(4-Methoxy-2,6-dimethylphenylsulfonyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylic acid | Yield: 63% | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CC=2N(CC1)C=NC2C(=O)O)C | C16H19N3O5S
